US05998439
Prepare by the method of Preparation 9 using 2-hydroxyethyl 2,2,2-trifluorethyl ether and 1-(t-butoxycarbonyl)-4-(1H-benzimidazole-2-carbonyl)piperidine (2.0 g, 6.1 mmol) to give 1-(t-butoxycarbonyl)-4-(1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazole-2-carbonyl)piperidine.

reactant | 2-hydroxyethyl 2,2,2-trifluorethyl ether | FC(COCCO)(F)F | C4H7F3O2
reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazole-2-carbonyl)piperidine | 6.1 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2 | C18H23N3O3
product | 1-(t-butoxycarbonyl)-4-(1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazole-2-carbonyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CCOCC(F)(F)F)C=CC=C2 | C22H28F3N3O4
